US06331538B1
1-(3-Chloro-4-fluorophenyl)-6-fluoro-3-benzyloxy-7-(4-methylpiperazin-1-yl)-1H-quinazoline-2,4-dione
Using General Method 4, the reaction of N-methylpiperazine (0.12 mL, 1 mmol), triethylamine (0.14 mL, 1 mmol) and 1-(3-chloro-4-fluorophenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione (Example D-1, 0.14 g, 0.32 mmol) provided 0.14 g of the title compound as a solid.

reactant | N-methylpiperazine | 1 mmol, 0.12 mL | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 1 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-chloro-4-fluorophenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione | 0.32 mmol, 0.14 g | ClC=1C=C(C=CC1F)N1C(N(C(C2=CC(=C(C=C12)F)F)=O)OCC1=CC=CC=C1)=O | C21H12ClF3N2O3
product | 1-(3-Chloro-4-fluorophenyl)-6-fluoro-3-benzyloxy-7-(4-methylpiperazin-1-yl)-1H-quinazoline-2,4-dione | 0.14 g | ClC=1C=C(C=CC1F)N1C(N(C(C2=CC(=C(C=C12)N1CCN(CC1)C)F)=O)OCC1=CC=CC=C1)=O | C26H23ClF2N4O3
